US08445499B2
Preparation of tert-Butyl 1′-[4-(hydroxymethyl)phenyl]-4,4′-bipiperidine-1-carboxylate
A solution of tert-Butyl 1′-(4-formylphenyl)-4,4′-bipiperidine-1-carboxylate (72 mg; 0.193 mmol) in EtOH (1 mL) was treated with NaBH4 (8 mg; 0.213 mmol). The solution was stirred at ambient temperature for 1 hr. The reaction was partitioned between iPrOAc and water. The organic was dried over magnesium sulfate, filtered and evaporated to afford the title compound.

reactant | tert-Butyl 1′-(4-formylphenyl)-4,4′-bipiperidine-1-carboxylate | 0.193 mmol, 72 mg | C(=O)C1=CC=C(C=C1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H32N2O3
reactant | NaBH4 | 0.213 mmol, 8 mg | [BH4-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | tert-Butyl 1′-[4-(hydroxymethyl)phenyl]-4,4′-bipiperidine-1-carboxylate | OCC1=CC=C(C=C1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O3
